US08133908B2
N-[((1S,4S,6S)-3-{[3-(Ethyloxy)-6-methyl-2-pyridinyl]carbonyl}-3-azabicyclo[4.1.0]hept-4-yl)methyl]-5-(trifluoromethyl)-2-pyridinamine (E2):
Following a similar procedure to that described for Example 1, N-[(1S,4S,6S)-3-azabicyclo[4.1.0]hept-4-ylmethyl]-5-(trifluoromethyl)-2-pyridinamine D12 (0.030 g) and 3-(ethyloxy)-6-methyl-2-pyridinecarboxylic acid D15 (0.020 g) were reacted to give the free base of the title compound (0.044 g, 0.101 mmol, 92% yield). HPLC (walk-up): rt=4.14 min. MS: m/z (ES/+): 435 (M+1). C22H25F3N4O2 requires 434. 1H NMR [the SYN relative stereochemistry is derived from the stereochemistry of the previous intermediate D8. The product is present as a mixture of conformers. The assignment is provided for the major component] (400 MHz, DMSO-d6) δ ppm: 8.26 (m, 1 H), 7.72-7.56 (m, 1 H), 7.18-7.47 (m, 3H), 6.83-6.61 (m, 1 H), 4.24-4.10 (m, 1 H), 4.10-3.88 (m, 2 H), 3.67-3.34 (m, 3 H), 2.67-2.56 (m, 1 H), 2.43-2.37 (s, 3 H), 2.43-2.34 (m, 1 H), 1.23-1.19 (m, 3 H), 1.20-0.8 (m, 3 H), 0.72-0.58 (m, 1 H), 0.15-0.24 (m, 1 H).

reactant | N-[(1S,4S,6S)-3-azabicyclo[4.1.0]hept-4-ylmethyl]-5-(trifluoromethyl)-2-pyridinamine | [C@H]12CN[C@@H](C[C@@H]2C1)CNC1=NC=C(C=C1)C(F)(F)F | C13H16F3N3
reactant | 3-(ethyloxy)-6-methyl-2-pyridinecarboxylic acid | C(C)OC=1C(=NC(=CC1)C)C(=O)O | C9H11NO3
product | N-[((1S,4S,6S)-3-{[3-(Ethyloxy)-6-methyl-2-pyridinyl]carbonyl}-3-azabicyclo[4.1.0]hept-4-yl)methyl]-5-(trifluoromethyl)-2-pyridinamine | 0.101 mmol, 0.044 g, 92% yield | C(C)OC=1C(=NC(=CC1)C)C(=O)N1C[C@H]2C[C@H]2C[C@H]1CNC1=NC=C(C=C1)C(F)(F)F | C22H25F3N4O2
